data/oMe_Silver.jsonl
{"reaction_id": "NG-008_1-c1cnccc1_2-C1CCCCC1_3-C","name": "Baeyer-Villiger oxidation","level": "easy","reactants_smiles": ["C(c1cnccc1)(=O)(C1CCCCC1)","C(C)(=O)OO"],"products_smiles": ["C(c1cnccc1)(=O)OC1CCCCC1"],"conditions": "Acid (H3O+)","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1cnccc1)(=[OH+])C1CCCCC1","rationale": "Protonation of the carbonyl oxygen increases the electrophilicity of the carbonyl carbon via inductive and resonance effects, making it more susceptible to nucleophilic attack by the peracid."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(c1cnccc1)([OH])(OOC(=O)C)C1CCCCC1","rationale": "The peracid oxygen acts as a nucleophile, attacking the activated carbonyl carbon; acid catalysis stabilizes the tetrahedral intermediate through protonation of the carbonyl."},{"step": 3,"type": "rearrangement","subtype": "1,2-shift","intermediate_smiles": "C(c1cnccc1)(=[OH+])OC1CCCCC1","rationale": "A 1,2-shift occurs from the more migratory C1CCCCC1 group to the adjacent oxygen, driven by stabilization of the developing carbocation and relief of positive charge on the leaving group."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1cnccc1)(=O)OC1CCCCC1","rationale": "Deprotonation restores neutrality, yielding the ester product; the acidic medium facilitates proton transfers to complete the catalytic cycle."}],"description": "Under acidic conditions, the carbonyl is activated toward nucleophilic attack by protonation, allowing the peracid to add. A 1,2-shift then occurs, driven by stabilization of the developing positive charge, yielding the ester after deprotonation."}
{"reaction_id": "NR-338_1-c1ccc(Cl)cc1_2-C1CCCCC1_3-C(C)C_4-c1ccc(C)cc1_5-c1ccc(C(=O)O)cc1","level": "medium","name": "Rubottom Oxidation","reactants_smiles": ["C(=C(C1CCCCC1)C(C)C)(c1ccc(Cl)cc1)O[Si](c1ccc(C)cc1)(c1ccc(C)cc1)c1ccc(C)cc1","O=C(OO)c1ccc(C(=O)O)cc1"],"products_smiles": ["C(=O)(C(O[Si](c1ccc(C)cc1)(c1ccc(C)cc1)c1ccc(C)cc1)(C1CCCCC1)C(C)C)c1ccc(Cl)cc1"],"conditions": "","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "addition","subtype": "electrophilic_addition","intermediate_smiles": "C1(O[Si](c1ccc(C)cc1)(c1ccc(C)cc1)c1ccc(C)cc1)(c1ccc(Cl)cc1)C(C1CCCCC1)(C(C)C)O1","step_weight": 0,"rationale": "The electron-rich alkene of the silyl enol ether attacks the electrophilic peracid oxygen, favored by π-electron donation from the oxygen substituent and the strong electrophilicity of the peracid's terminal oxygen."},{"step": 2,"type": "rearrangement","subtype": "1,2-shift","intermediate_smiles": "C(=[O+][Si](c1ccc(C)cc1)(c1ccc(C)cc1)c1ccc(C)cc1)(c1ccc(Cl)cc1)C([O-])(C1CCCCC1)C(C)C","step_weight": 0,"rationale": "The 1,2-shift of the silyl group is driven by the stability of the silicon–oxygen bond and the ability of silicon to stabilize positive charge via hyperconjugation and empty d-orbital participation."},{"step": 3,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "C(=O)(C(O[Si](c1ccc(C)cc1)(c1ccc(C)cc1)c1ccc(C)cc1)(C1CCCCC1)C(C)C)c1ccc(Cl)cc1","step_weight": 0,"rationale": "Nucleophilic attack by the oxygen displaces the leaving group, restoring the carbonyl; silicon’s strong affinity for oxygen makes the silyloxy group stable in the product."}],"description": "The silyl enol ether undergoes electrophilic addition with the peracid to form a dioxirane-like intermediate. A 1,2-shift transfers the silyl group with concurrent oxygen insertion, driven by stabilization of the developing positive charge. Finally, nucleophilic substitution regenerates the carbonyl, yielding the α-silyloxy ketone."}
